US03994890
By the procedure similar to that described in Example 1, 3-phenyl-5-methylindazole (4.17 g) and dimethylaminopropyl chloride hydrochloride (4.74 g) were treated to obtain an oily product. The product was purified through distillation under reduced pressure to obtain 3.5 g of 1-dimethylaminopropyl-3-phenyl-5-methylindazole (b.p. 185°C/0.5 mmHg).

reactant | 3-phenyl-5-methylindazole | 4.17 g | C1(=CC=CC=C1)C1=NNC2=CC=C(C=C12)C | C14H12N2
reactant | dimethylaminopropyl chloride hydrochloride | 4.74 g | Cl.CN(C)CCCCl
product | 1-dimethylaminopropyl-3-phenyl-5-methylindazole | 3.5 g | CN(C(CC)C1=C2C(=NNC2=CC=C1C)C1=CC=CC=C1)C | C19H23N3
